US08486952B2
2-Chloro-N-methyl-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (220 mg, 0.640 mmol) was added to a solution of 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (215 mg, 0.960 mmol) in acetic acid (2 mL) and THF (2.000 mL). The reaction mixture was heated at 80° C. overnight. The crude reaction mixture was purified by preparative HPLC. The appropriate fractions were evaporated to afford N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine (92 mg, 0.172 mmol, 26.8% yield). LC-MS (M+H)+=531.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.93 (1H, s), 7.66 (1H, br s), 7.50 (1H, s), 7.10-7.23 (4H, m), 7.02 (2H, d, J=15.3 Hz), 6.83 (1H, d, J=8.2 Hz), 4.70-4.83 (1H, m), 4.13-4.28 (1H, m), 3.12 (3H, d, J=4.9 Hz), 2.74 (1H, br. s.), 2.65 (2H, d, J=8.2 Hz), 1.97-2.08 (1H, m), 1.25 (3H, s).

reactant | 2-Chloro-N-methyl-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.640 mmol, 220 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)OC(F)(F)F)NC | C15H13ClF3N3O
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.960 mmol, 215 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 2.000 mL | C1CCOC1 | C4H8O
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | 0.172 mmol, 92 mg, 26.8% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)OC(F)(F)F)NC)OC | C25H22ClF3N6O2
